US08378118B2
Step-II: Preparation of 2-[4-(7-Methoxy-6-methyl-indan-4-ylmethyl)-3,5-dimethyl-pyrazol-1-yl]-ethanol
To a stirred solution of 3-(7-Methoxy-6-methyl-indan-4-ylmethyl)-pentane-2,4-dione (1.0 gm 0.0036 mole) in Ethanol (15 ml), a solution of 2-Hydrazino-ethanol (0.33 gm, 0.0043 mole) in Ethanol (5 ml) was added at 25-30° C. and reaction mixture was heated to 70° C. for an hour. The Acetic acid (2 ml) was added. Further the reaction mixture was stirred at 70° C. for 3 hours. Ethanol was distilled under vacuum to give a residue which was partitioned between Ethyl acetate (50 ml) and water (25 ml). Ethyl acetate was distilled under vacuum to give a crude product The crude product was solidified after stirring in Diethyl ether (10 ml). The solid was filtered under vacuum and dried to give a 700 mg of desired compound as a solid.

reactant | 3-(7-Methoxy-6-methyl-indan-4-ylmethyl)-pentane-2,4-dione | 0.0036 mole, 1.0 gm | COC=1C(=CC(=C2CCCC12)CC(C(C)=O)C(C)=O)C | C17H22O3
reactant | 2-Hydrazino-ethanol | 0.0043 mole, 0.33 gm | N(N)CCO | C2H8N2O
reactant | Acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | Ethanol | 15 ml | C(C)O | C2H6O
solvent | Ethanol | 5 ml | C(C)O | C2H6O
solvent | Diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2-[4-(7-Methoxy-6-methyl-indan-4-ylmethyl)-3,5-dimethyl-pyrazol-1-yl]-ethanol | 700 mg, Yield: 61.4% | COC=1C(=CC(=C2CCCC12)CC=1C(=NN(C1C)CCO)C)C | C19H26N2O2
